US04735959
Ethyl 4-[(1-(2-Piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-cinnamate
A solution of 2.80 gm (12.5 m mol) of ethyl diethylphosphonoacetate in 10 ml of absolute dimethylformamide was added dropwise, at ambient temperature, to 0.60 gm (12.5 m mol) of sodium hydride (50% in oil) in 15 ml of absolute dimethylformamide. The mixture was stirred for 15 minutes (until the development of gas ceased), and then a solution of 2.4 gm (6.34 m mol) of 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzaldehyde in 10 ml of absolute dimethylformamide was added thereto dropwise. The mixture was stirred for two hours at ambient temperature, concentrated by evaporation in vacuo, and distributed between water and ether. The ether phase was dried, filtered, and then evaporated in vacuo. The evaporation residue was purified by column chromatography on silica gel [toluene/acetone (10:1)].

reactant | ethyl diethylphosphonoacetate | 2.80 gm | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 0.60 gm | [H-].[Na+]
reactant | 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzaldehyde | 2.4 gm | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C=O)C=C1)C(=O)N | C24H30N2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-[(1-(2-Piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-cinnamate | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C=CC(=O)OCC)C=C1)C(=O)N | C28H36N2O3
